US08530504B2
tert-Butyl(6-methylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate
To a dichloromethane (20 mL) solution of 6-methylpyrazolo[5,1-b][1,3]thiazole-7-amine (606 mg, 3.96 mmol) were added di-tert-butyl dicarbonate (951 mg, 4.36 mmol) and methylamine (829 μl, 5.94 mmol), and the mixture was stirred at room temperature over one day and night. Water was added to the reaction mixture, and a substance of interest was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate. The mixture was filtered to yield a filtrate, and then a solvent was distilled off under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (n-heptane/ethyl acetate: 50%) to obtain 808.4 mg (3.19 mmol) of the title compound.

reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | 6-methylpyrazolo[5,1-b][1,3]thiazole-7-amine | 3.96 mmol, 606 mg | CC1=NN2C(SC=C2)=C1N | C6H7N3S
reactant | di-tert-butyl dicarbonate | 4.36 mmol, 951 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methylamine | 5.94 mmol, 829 μl | CN | CH5N
solvent | Water | O | H2O
product | tert-Butyl(6-methylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 3.19 mmol, 808.4 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC=C2)C)=O | C11H15N3O2S
